US09403816B2
N-(4-Bromophenyl)-2-phenylacetamide
Into a 250-mL round-bottom flask were placed a solution of 4-bromoaniline (17.1 g, 99.42 mmol) and triethylamine (30 g, 297 mmol) in dichloromethane (100 mL). Then, 2-phenylacetyl chloride (18.6 g, 120 mmol) was added dropwise with stirring, and the resulting solution was stirred at room temperature for 6 hours. The solids were filtered out, and the filtrate was concentrated under vacuum. The crude product was purified by re-crystallization from ethyl acetate to provide the title compound as a white solid.

reactant | 4-bromoaniline | 99.42 mmol, 17.1 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 297 mmol, 30 g | C(C)N(CC)CC | C6H15N
reactant | 2-phenylacetyl chloride | 120 mmol, 18.6 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(4-Bromophenyl)-2-phenylacetamide | BrC1=CC=C(C=C1)NC(CC1=CC=CC=C1)=O | C14H12BrNO
